US07615642B2
tert-Butyl[1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-yl]carbamate
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (0.41 g, 1.0 mmol), tert-butyl azetidin-3-ylcarbamate (0.17 g, 1.0 mmol) and DMAP (0.37 g, 3.0 mmol) in MeCN (20 mL). The crude product was purified by MPLC using Hex/EtOAc (1:1) on silica gel to give 0.40 g (74%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.33 (s, 9 H), 1.48-1.62 (m, 2 H), 1.64 (s, 9 H), 1.67-1.87 (m, 4 H), 1.98-2.15 (m, 2 H), 2.19-2.35 (m, 1 H), 3.62 (t, J=7.03 Hz, 2 H), 3.96 (t, J=8.11 Hz, 2 H), 4.05-4.16 (m, 1 H), 4.51 (d, J=7.42 Hz, 2 H), 7.86 (dd, J=9.18, 1.17 Hz, 1 H), 7.98 (d, J=8.79 Hz, 1 H), 8.14 (d, J=1.56 Hz, 1 H); MS (ESI) (M+H)+=541.3; Anal. Calcd for C26H38F2N4O4S+1.00 TFA+0.20 EtOAc (674.72): C, 51.62; H, 6.07; N, 8.30. Found: C, 51.73; H, 5.94; N, 8.27.

reactant | 2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 1.0 mmol, 0.41 g | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
reactant | tert-butyl azetidin-3-ylcarbamate | 1.0 mmol, 0.17 g | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
catalyst | DMAP | 3.0 mmol, 0.37 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 20 mL | CC#N | C2H3N
product | tert-Butyl[1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)azetidin-3-yl]carbamate | 0.40 g, 74% | C(C)(C)(C)OC(NC1CN(C1)S(=O)(=O)C1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCC(CC2)(F)F)C=C1)=O | C26H38F2N4O4S
